US06420359B1
c) 5-Bromo-N-(2,6-dichloro-4-methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide
Solid KOAc (22.2 g, 229 mmol) was added to a solution of crude N-(2,6-dichloro-4methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide (61.98 g, <190 mmol) in AcOH (600 mL). A solution of Br2 (9.7 mL, 191 mmol) was then added over 30 min. After stirring 30 min, additional amounts of KOAc and Br2 were introduced until TLC indicated that no starting material remained (a total of 11.2 g of KOAc and 5.91 mL of Br2). The solution was then poured into water (2 L) and stirred for 20 min. The solid was removed by filtration and then dissolved in Et2O (1 L). The ethereal solution was washed with water (3×), aqueous saturated NaHCO3, brine then dried (MgSO4) to give a mixture containing, as the major component, the title compound (77.7 g, yellow foam). The material was used directly in the subsequent reaction.

reactant | KOAc | 229 mmol, 22.2 g | CC(=O)[O-].[K+]
reactant | N-(2,6-dichloro-4methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide | <190 mmol, 61.98 g | ClC1=NC(=CC(=C1NC(=O)C=1C(=NC=CC1)NCC)C)Cl | C14H14Cl2N4O
reactant | Br2 | 191 mmol, 9.7 mL | BrBr | Br2
reactant | KOAc | 11.2 g | CC(=O)[O-].[K+]
reactant | Br2 | 5.91 mL | BrBr | Br2
reactant | water | 2 L | O | H2O
solvent | AcOH | 600 mL | CC(=O)O | C2H4O2
product | 5-Bromo-N-(2,6-dichloro-4-methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide | 77.7 g | BrC=1C=C(C(=NC1)NCC)C(=O)NC=1C(=NC(=CC1C)Cl)Cl | C14H13BrCl2N4O
